US07402592B2
To a solution of ethyl 7-(trifluoromethylsulfonyloxy)-3-azabicyclo[3.3.1] non-6-ene-3-carboxylate (0.12 g, 0.35 mmol) in dimethoxyethane (3 mL) was added saturated sodium carbonate solution (1 mL), lithium chloride (0.04 g, 0.9 mmol) and 5-phenyl-3-pyridinylboronic acid (0.12 g, 0.7 mmol). The flask was alternately evacuated and filled with argon three times. Then tetrakis(triphenylphosphine)palladium(0) (0.01 g, 0.01 mmol) was added, and the evacuation and argon fill was performed once again. The flask was then sealed under argon, and the stirred reaction mixture was heated at 95(C for 2 h. The mixture was cooled to ambient temperature, diluted with water (10 mL) and extracted with chloroform (3×5 mL). The combined extracts were dried over sodium sulfate and filtered. Concentration of the filtrate by rotary evaporation, followed by purification of the residue by silica gel column chromatography, using a gradient of chloroform/methanol (0-2% methanol) as eluent, gave ethyl 7-(5-phenyl-3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate as a light yellow oil (0.12 g, 90%).

reactant | ethyl 7-(trifluoromethylsulfonyloxy)-3-azabicyclo[3.3.1] non-6-ene-3-carboxylate | 0.35 mmol, 0.12 g | FC(S(=O)(=O)OC1=CC2CN(CC(C1)C2)C(=O)OCC)(F)F | C12H16F3NO5S
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 0.9 mmol, 0.04 g | [Cl-].[Li+]
reactant | 5-phenyl-3-pyridinylboronic acid | 0.7 mmol, 0.12 g | C1(=CC=CC=C1)C=1C=C(C=NC1)B(O)O | C11H10BNO2
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 7-(5-phenyl-3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate | 0.12 g, 90% | C1(=CC=CC=C1)C=1C=C(C=NC1)C1=CC2CN(CC(C1)C2)C(=O)OCC | C22H24N2O2
